US07825119B2
Synthesis of 2-[1-(6-Chloro-5-methoxy-2-methyl-pyrimidin-4-yl) -piperidin-4-yl]-[1,8]naphthyridine:
30 ml of dimethylacetamide, 0.9 g (4.66 mmoles) 4,6-dichloro-2-methyl -5-methoxy-pyrimidine and 3 ml of diisopropylethylamine are added into a single-necked flask containing 1.1 g (5.2 mmoles) of 2-piperidin-4-yl-[1,8]naphthyridine. This mixture is heated at 120° C. for 4 hours then concentrated to dryness under reduced pressure (2 kPa). The residue obtained is taken up in a mixture of water, ethyl acetate and a saturated solution of sodium bicarbonate. The organic phase is separated and the aqueous phase reextracted with ethyl acetate. The collected organic phases are dried over magnesium sulphate then the solvent is evaporated off under reduced pressure (2 kPa). The residue is chromatographed on silica gel eluting with a gradient of heptane-ethyl acetate of 100-0 to 0-100. 870 mg of expected product is obtained in the form of a yellow solid.

reactant | 4,6-dichloro-2-methyl -5-methoxy-pyrimidine | 4.66 mmoles, 0.9 g | ClC1=NC(=NC(=C1OC)Cl)C | C6H6Cl2N2O
reactant | diisopropylethylamine | 3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-piperidin-4-yl-[1,8]naphthyridine | 5.2 mmoles, 1.1 g | N1CCC(CC1)C1=NC2=NC=CC=C2C=C1 | C13H15N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 2-[1-(6-Chloro-5-methoxy-2-methyl-pyrimidin-4-yl) -piperidin-4-yl]-[1,8]naphthyridine | 870 mg | ClC1=C(C(=NC(=N1)C)N1CCC(CC1)C1=NC2=NC=CC=C2C=C1)OC | C19H20ClN5O
